*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_0 1 2 3 4 REF
C_C1 1 REF 1.1495470365168pf
C_C2 1 2 15.216248410196pf
C_C3 1 3 0.0216324778036pf
C_C4 1 4 0.2125252961091pf
C_C5 2 REF 1.3263810852956pf
C_C6 2 3 0.1096610297821pf
C_C7 3 REF 0.4508924404056pf
C_C8 3 4 6.6550235028777pf
C_C9 4 REF 0.4500547612873pf
L_L1 3 5 1.3005470846415nh
R_RL1 5 4 -1.263755735e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_1 1 2 3 4 REF
C_C1 1 REF 0.8528029525637pf
C_C2 1 2 15.608799003483pf
C_C3 1 3 0.0206632004638pf
C_C4 1 4 0.2149582310546pf
C_C5 2 REF 1.0365055098864pf
C_C6 2 3 0.1100018509623pf
C_C7 3 REF 0.4515509433506pf
C_C8 3 4 4.9276022307906pf
C_C9 4 REF 0.4494866403047pf
L_L1 3 5 1.3019442830073nh
R_RL1 5 4 4.2410081278e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_2 1 2 3 4 REF
C_C1 1 REF 0.638541219722pf
C_C2 1 2 15.987590959883pf
C_C3 1 3 0.0196267891144pf
C_C4 1 4 0.2179085712423pf
C_C5 2 REF 0.8306675874058pf
C_C6 2 3 0.1104571362246pf
C_C7 3 REF 0.452161015887pf
C_C8 3 4 3.7213054973179pf
C_C9 4 REF 0.4491307506749pf
L_L1 3 5 1.3031077029435nh
R_RL1 5 4 2.5688545975e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_3 1 2 3 4 REF
C_C1 1 REF 0.4615926214853pf
C_C2 1 2 16.465436281991pf
C_C3 1 3 0.0182141901843pf
C_C4 1 4 0.2223571106669pf
C_C5 2 REF 0.6650318459656pf
C_C6 2 3 0.111202616118pf
C_C7 3 REF 0.4528638670964pf
C_C8 3 4 2.6832881608647pf
C_C9 4 REF 0.4489125833102pf
L_L1 3 5 1.3042847377454nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_4 1 2 3 4 REF
C_C1 1 REF 0.337245642674pf
C_C2 1 2 17.063248785391pf
C_C3 1 3 0.0163603543299pf
C_C4 1 4 0.2286556963024pf
C_C5 2 REF 0.5541627674872pf
C_C6 2 3 0.1123444874621pf
C_C7 3 REF 0.4536183018963pf
C_C8 3 4 1.8514504058843pf
C_C9 4 REF 0.448871278397pf
L_L1 3 5 1.3054602941992nh
R_RL1 5 4 -1.413629081e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_5 1 2 3 4 REF
C_C1 1 REF 0.273444516985pf
C_C2 1 2 17.71437845852pf
C_C3 1 3 0.0142913901525pf
C_C4 1 4 0.2360531825309pf
C_C5 2 REF 0.5036385246832pf
C_C6 2 3 0.1137880534973pf
C_C7 3 REF 0.4542864995977pf
C_C8 3 4 1.3011140564358pf
C_C9 4 REF 0.4489977819454pf
L_L1 3 5 1.3064088058997nh
R_RL1 5 4 -3.23594046e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_6 1 2 3 4 REF
C_C1 1 REF 0.243701151439pf
C_C2 1 2 18.433094832207pf
C_C3 1 3 0.0119847830604pf
C_C4 1 4 0.2445201675996pf
C_C5 2 REF 0.4872428473825pf
C_C6 2 3 0.1155469681501pf
C_C7 3 REF 0.4548774662127pf
C_C8 3 4 0.9242472813683pf
C_C9 4 REF 0.4492365966905pf
L_L1 3 5 1.3071868387126nh
R_RL1 5 4 -4.786326429e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_7 1 2 3 4 REF
C_C1 1 REF 0.2313886946691pf
C_C2 1 2 19.374609527612pf
C_C3 1 4 0.2557908554149pf
C_C4 2 REF 0.491188729401pf
C_C5 2 3 0.1180368110748pf
C_C6 3 REF 0.4554770932749pf
C_C7 3 4 0.6236386788568pf
C_C8 4 REF 0.4496078964752pf
L_L1 3 5 1.3079192028075nh
R_RL1 5 4 -6.229283349e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_8 1 2 3 4 REF
C_C1 1 REF 0.2296489775526pf
C_C2 1 2 20.580581028224pf
C_C3 1 4 0.2702678268143pf
C_C4 2 REF 0.5093137555607pf
C_C5 2 3 0.1214383685433pf
C_C6 3 REF 0.4560445347171pf
C_C7 3 4 0.392265347828pf
C_C8 4 REF 0.4500860201018pf
L_L1 3 5 1.3086085220618nh
R_RL1 5 4 -7.4715138e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_9 1 2 3 4 REF
C_C1 1 REF 0.2321761944119pf
C_C2 1 2 22.137801496299pf
C_C3 1 4 0.2888337528527pf
C_C4 2 REF 0.5367269525685pf
C_C5 2 3 0.1261070028946pf
C_C6 3 REF 0.4565245165674pf
C_C7 3 4 0.2218347993923pf
C_C8 4 REF 0.4506277803815pf
L_L1 3 5 1.3092179506108nh
R_RL1 5 4 -8.310537646e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_10 1 2 3 4 REF
C_C1 1 REF 0.2333492542003pf
C_C2 1 2 24.126590352209pf
C_C3 1 4 0.3122212056781pf
C_C4 2 REF 0.5690261712701pf
C_C5 2 3 0.1323985628173pf
C_C6 3 REF 0.4568551119927pf
C_C7 3 4 0.0985325599642pf
C_C8 4 REF 0.4511609108982pf
L_L1 1 5 71.612483068552nh
R_RL1 5 2 6.3316334205333
L_L2 3 6 1.3097268943754nh
R_RL2 6 4 -8.632524214e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_11 1 2 3 4 REF
C_C1 1 REF 0.2289608831123pf
C_C2 1 2 26.727949343783pf
C_C3 1 4 0.3422241499915pf
C_C4 2 REF 0.6044453868225pf
C_C5 2 3 0.1410369718208pf
C_C6 3 REF 0.4569700140196pf
C_C7 3 4 0.0119578762226pf
C_C8 4 REF 0.451615868414pf
L_L1 1 5 45.246260847956nh
R_RL1 5 2 1.160678404603
L_L2 3 6 1.3101275515793nh
R_RL2 6 4 -8.291111135e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_12 1 2 3 4 REF
C_C1 1 REF 0.2159861310805pf
C_C2 1 2 30.182794673841pf
C_C3 1 4 0.3812406586515pf
C_C4 2 REF 0.6429667981698pf
C_C5 2 3 0.1529440226523pf
C_C6 3 REF 0.4568341987913pf
C_C7 4 REF 0.4519509469221pf
L_L1 1 5 28.242707104286nh
R_RL1 5 2 -0.88772913965
L_L2 3 6 1.3100436629592nh
R_RL2 6 4 -7.226024809e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_13 1 2 3 4 REF
C_C1 1 REF 0.190428725231pf
C_C2 1 2 35.037210155594pf
C_C3 1 4 0.4349743073662pf
C_C4 2 REF 0.6876999338431pf
C_C5 2 3 0.1701090606618pf
C_C6 3 REF 0.456426087418pf
C_C7 4 REF 0.4521723965171pf
R_R1 1 2 807.42662573756
L_L1 1 5 17.258773947803nh
R_RL1 5 2 -1.076589179558
L_L2 3 6 1.3097199895326nh
R_RL2 6 4 -5.437781874e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_14 1 2 3 4 REF
C_C1 1 REF 0.1463786365706pf
C_C2 1 2 42.219989395933pf
C_C3 1 4 0.5133338444505pf
C_C4 2 REF 0.7451777016344pf
C_C5 2 3 0.1958334900422pf
C_C6 3 REF 0.4557597566784pf
C_C7 4 REF 0.4523623199388pf
R_R1 1 2 412.6416276533
L_L1 1 5 10.270258086781nh
R_RL1 5 2 -0.218661353425
L_L2 3 6 1.3092053752842nh
R_RL2 6 4 -2.974196468e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_15 1 2 3 4 REF
C_C1 1 REF 0.0689702713847pf
C_C2 1 2 53.971248188097pf
C_C3 1 4 0.6404769170624pf
C_C4 2 REF 0.8313042424484pf
C_C5 2 3 0.2380672517551pf
C_C6 3 REF 0.4548273934253pf
C_C7 4 REF 0.4527177795055pf
R_R1 1 2 248.65168972209
L_L1 1 5 6.2263978858234nh
R_RL1 5 2 -0.330240443991
L_L2 3 6 1.3083197742266nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_16 1 2 3 4 REF
C_C1 1 2 77.474545550382pf
C_C2 1 4 0.8940767740357pf
C_C3 2 REF 0.9966278378312pf
C_C4 2 3 0.3223872094714pf
C_C5 3 REF 0.4534716758599pf
C_C6 4 REF 0.4537877348957pf
R_R1 1 2 155.00123100958
L_L1 1 5 2.7654973664344nh
R_RL1 5 2 -0.317359877435
L_L2 3 6 1.3065943211146nh
R_RL2 6 4 3.0944677405e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_17 1 2 3 4 REF
C_C1 1 2 138.20194213876pf
C_C2 1 4 1.5495853872389pf
C_C3 2 REF 1.4183121986138pf
C_C4 2 3 0.5395730669042pf
C_C5 3 REF 0.4511314005805pf
C_C6 4 REF 0.4575331827678pf
R_R1 1 2 88.163053679372
L_L1 1 5 1.0462661023608nh
R_RL1 5 2 -0.097131660472
L_L2 1 6 47.721523000876nh
R_RL2 6 3 -0.077298529424
L_L3 1 7 47.000283367257nh
R_RL3 7 4 -0.078122679026
L_L4 2 8 47.82035168219nh
R_RL4 8 3 0.0022404299371
L_L5 2 9 47.102342466777nh
R_RL5 9 4 0.0022272030791
L_L6 3 10 1.302283724469nh
R_RL6 10 4 6.0396798958e-5
Kn_K1 L_L1 L_L2 0.0670412824196
Kn_K2 L_L1 L_L3 0.0673233790693
Kn_K3 L_L1 L_L4 -0.080943872933
Kn_K4 L_L1 L_L5 -0.081788561563
Kn_K5 L_L2 L_L3 0.9862800811876
Kn_K6 L_L2 L_L4 0.9890496648589
Kn_K7 L_L2 L_L5 0.9752192262266
Kn_K8 L_L2 L_L6 -0.128341843174
Kn_K9 L_L3 L_L4 0.975302204058
Kn_K10 L_L3 L_L5 0.9888822297547
Kn_K11 L_L3 L_L6 0.0371343689916
Kn_K12 L_L4 L_L5 0.9863088030372
Kn_K13 L_L4 L_L6 -0.128004477493
Kn_K14 L_L5 L_L6 0.0373003480441
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_18 1 2 3 4 REF
C_C1 1 2 428.53045579238pf
C_C2 1 4 4.6871655801266pf
C_C3 2 REF 3.4319579098595pf
C_C4 2 3 1.5758042324856pf
C_C5 3 REF 0.4431153128303pf
C_C6 4 REF 0.4784436426895pf
R_R1 1 2 30.756535665059
L_L1 1 5 27.795545885744nh
R_RL1 5 REF -0.699717849116
L_L2 1 6 0.2282253272021nh
R_RL2 6 2 -0.017484310228
L_L3 1 7 12.489188470457nh
R_RL3 7 3 -0.010454982954
L_L4 1 8 11.819133333269nh
R_RL4 8 4 -0.011073221272
L_L5 2 9 27.64035351882nh
R_RL5 9 REF -0.71716243755
L_L6 2 10 12.536443027301nh
R_RL6 10 3 -2.300324331e-4
L_L7 2 11 11.870765204338nh
R_RL7 11 4 -1.739850929e-4
L_L8 3 12 40.034613876728nh
R_RL8 12 REF -0.731707716429
L_L9 3 13 1.2819621033953nh
R_RL9 13 4 7.4630094167e-5
L_L10 4 14 39.355876735976nh
R_RL10 14 REF -0.731978651463
Kn_K1 L_L1 L_L2 0.0761154172256
Kn_K2 L_L1 L_L5 0.9958869795062
Kn_K3 L_L1 L_L8 0.8294903836398
Kn_K4 L_L1 L_L10 0.8364813134488
Kn_K5 L_L2 L_L3 0.053595633731
Kn_K6 L_L2 L_L4 0.0537613140596
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081431195542
Kn_K9 L_L2 L_L7 -0.085012974056
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9476224984661
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9908821034207
Kn_K15 L_L3 L_L7 0.9381279887022
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.243920864297
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9385810557745
Kn_K21 L_L4 L_L7 0.9903684854052
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0786004427221
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.828772867788
Kn_K26 L_L5 L_L10 0.835690909708
Kn_K27 L_L6 L_L7 0.9478286782308
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.242914765523
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0789903691854
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1368439400866
Kn_K35 L_L8 L_L10 0.983888405194
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_19 1 2 3 4 REF
C_C1 1 REF 16.293497588369pf
C_C2 1 3 8.2271819016249pf
C_C3 2 4 24.751984472278pf
C_C4 3 REF 0.5094660204611pf
C_C5 4 REF 0.2742342378721pf
R_R1 1 2 -7.113145370084
R_R2 1 4 -661.4694191113
R_R3 2 4 662.72105742433
L_L1 1 5 3.8056788414406nh
R_RL1 5 REF -0.014439991516
L_L2 1 6 0.1900195808153nh
R_RL2 6 2 0.0781001033518
L_L3 1 7 2.5032178505086nh
R_RL3 7 3 0.0346131478125
L_L4 1 8 1.9511639494027nh
R_RL4 8 4 0.0485322442738
L_L5 2 9 3.9575060090942nh
R_RL5 9 REF 0.0692208504738
L_L6 2 10 2.4574103192763nh
R_RL6 10 3 0.0088231717715
L_L7 2 11 1.87091409059nh
R_RL7 11 4 0.0035253464147
L_L8 3 12 6.3012672893902nh
R_RL8 12 REF 0.0231909495983
L_L9 3 13 1.1505349857983nh
R_RL9 13 4 0.0012499696867
L_L10 4 14 5.7567168899517nh
R_RL10 14 REF 0.0377659572026
Kn_K1 L_L1 L_L2 0.0224559720192
Kn_K2 L_L1 L_L5 0.9757096034625
Kn_K3 L_L1 L_L8 0.7763661191533
Kn_K4 L_L1 L_L10 0.8130578516982
Kn_K5 L_L2 L_L3 0.1709681591433
Kn_K6 L_L2 L_L4 0.221932490145
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.105519697342
Kn_K9 L_L2 L_L7 -0.092050566988
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0368309910305
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7474698882762
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.961735456788
Kn_K16 L_L3 L_L7 0.7088460148285
Kn_K17 L_L3 L_L8 0.957267509174
Kn_K18 L_L3 L_L9 -0.501626602853
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6926907057381
Kn_K22 L_L4 L_L7 0.9504932342793
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1997209563304
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.018221584598
Kn_K27 L_L5 L_L7 0.013175614723
Kn_K28 L_L5 L_L8 0.7811163833255
Kn_K29 L_L5 L_L10 0.8216201684985
Kn_K30 L_L6 L_L7 0.7410190244602
Kn_K31 L_L6 L_L8 0.9912602692704
Kn_K32 L_L6 L_L9 -0.516522059064
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1922215671527
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3147731775023
Kn_K38 L_L8 L_L10 0.905507008731
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_20 1 2 3 4 REF
C_C1 1 2 1100.8152167601pf
C_C2 1 4 11.949863874443pf
C_C3 2 REF 8.0926139431533pf
C_C4 2 3 3.9752698112156pf
C_C5 3 REF 0.4252663731879pf
C_C6 4 REF 0.5272839499899pf
R_R1 1 2 15.088706389713
L_L1 1 5 6.7056678394016nh
R_RL1 5 REF -0.035413240259
L_L2 1 6 0.0415976403261nh
R_RL2 6 2 -2.451294549e-3
L_L3 1 7 3.7655987501274nh
R_RL3 7 3 -1.052864703e-3
L_L4 1 8 3.1409363892217nh
R_RL4 8 4 -1.367301587e-3
L_L5 2 9 6.6549278218148nh
R_RL5 9 REF -0.037568197299
L_L6 2 10 3.7835541673255nh
R_RL6 10 3 -1.092965024e-4
L_L7 2 11 3.1656793232nh
R_RL7 11 4 -5.778228683e-5
L_L8 3 12 10.410785874029nh
R_RL8 12 REF -0.037605707963
L_L9 3 13 1.2114813511579nh
R_RL9 13 4 3.6864820339e-5
L_L10 4 14 9.7789985029617nh
R_RL10 14 REF -0.037930976947
Kn_K1 L_L1 L_L2 0.0874165158294
Kn_K2 L_L1 L_L5 0.9968937320074
Kn_K3 L_L1 L_L8 0.798943939464
Kn_K4 L_L1 L_L10 0.823908607809
Kn_K5 L_L2 L_L3 0.0298680553713
Kn_K6 L_L2 L_L4 0.0233145628311
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075056747741
Kn_K9 L_L2 L_L7 -0.091407414235
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.015117786448
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8279826633621
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9944925735164
Kn_K16 L_L3 L_L7 0.8213167660162
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.42983451618
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8235710480764
Kn_K22 L_L4 L_L7 0.9934117719449
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1504132956139
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7978573765188
Kn_K27 L_L5 L_L10 0.8223651308224
Kn_K28 L_L6 L_L7 0.8289500271949
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.427228223474
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1515572899427
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2595126511535
Kn_K36 L_L8 L_L10 0.9404558974156
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_21 1 2 3 4 REF
C_C1 1 2 111.88529764553pf
C_C2 1 4 1.2552000353969pf
C_C3 2 REF 1.2327276788782pf
C_C4 2 3 0.4468082187206pf
C_C5 3 REF 0.4495040600341pf
C_C6 4 REF 0.4526283230963pf
R_R1 1 2 117.30007463213
L_L1 1 5 0.2908409838565nh
R_RL1 5 2 -0.019660567763
L_L2 1 6 28.76904634154nh
R_RL2 6 3 0.0024642523429
L_L3 1 7 28.033970924273nh
R_RL3 7 4 0.0020472817604
L_L4 2 8 29.005603621312nh
R_RL4 8 3 5.4011387073e-4
L_L5 2 9 28.279115017119nh
R_RL5 9 4 5.8056196686e-4
L_L6 3 10 1.2946748287849nh
R_RL6 10 4 1.0821924393e-5
Kn_K1 L_L1 L_L4 -0.090790402929
Kn_K2 L_L1 L_L5 -0.093446274688
Kn_K3 L_L2 L_L3 0.9772894735602
Kn_K4 L_L2 L_L4 0.9949742815208
Kn_K5 L_L2 L_L5 0.9720927460564
Kn_K6 L_L2 L_L6 -0.166291297492
Kn_K7 L_L3 L_L4 0.9724948778501
Kn_K8 L_L3 L_L5 0.9948447125147
Kn_K9 L_L3 L_L6 0.0464434626801
Kn_K10 L_L4 L_L5 0.9774779078559
Kn_K11 L_L4 L_L6 -0.164911191894
Kn_K12 L_L5 L_L6 0.046951280927
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_22 1 2 3 4 REF
C_C1 1 REF 0.2195750450661pf
C_C2 1 2 37.064249360139pf
C_C3 1 4 0.4449439448559pf
C_C4 2 REF 0.7190215145275pf
C_C5 2 3 0.1786664275859pf
C_C6 3 REF 0.4510179067038pf
C_C7 4 REF 0.4465438966466pf
R_R1 1 2 331.84730949446
L_L1 1 5 0.6919025957835nh
R_RL1 5 2 0.0096119269681
L_L2 1 6 96.168030724278nh
R_RL2 6 3 0.2027030571896
L_L3 1 7 95.189186256337nh
R_RL3 7 4 0.2006901107275
L_L4 2 8 97.266895757423nh
R_RL4 8 3 0.3233799572372
L_L5 2 9 96.29632163396nh
R_RL5 9 4 0.3209256683845
L_L6 3 10 1.3014890171677nh
R_RL6 10 4 -3.41135908e-5
Kn_K1 L_L1 L_L2 -0.024945171185
Kn_K2 L_L1 L_L3 -0.025582639454
Kn_K3 L_L1 L_L4 -0.109145097134
Kn_K4 L_L1 L_L5 -0.110200358079
Kn_K5 L_L2 L_L3 0.9932116358726
Kn_K6 L_L2 L_L4 0.9964391514944
Kn_K7 L_L2 L_L5 0.9896000499825
Kn_K8 L_L2 L_L6 -0.101913743335
Kn_K9 L_L3 L_L4 0.9897430066474
Kn_K10 L_L3 L_L5 0.9964033129306
Kn_K11 L_L3 L_L6 0.0144937336464
Kn_K12 L_L4 L_L5 0.9932886423334
Kn_K13 L_L4 L_L6 -0.100968898614
Kn_K14 L_L5 L_L6 0.0147795501561
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_23 1 2 3 4 REF
C_C1 1 REF 0.3627587406479pf
C_C2 1 2 17.239900617522pf
C_C3 1 3 0.0336541344341pf
C_C4 1 4 0.2303320336273pf
C_C5 2 REF 0.5899734413241pf
C_C6 2 3 0.1060468747508pf
C_C7 3 REF 0.4506917014639pf
C_C8 4 REF 0.4441756357984pf
R_R1 1 2 928.27818807471
L_L1 1 5 1.0411167700083nh
R_RL1 5 2 -6.236546457e-3
L_L2 3 6 1.3014940044387nh
R_RL2 6 4 -7.372529308e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_24 1 2 3 4 REF
C_C1 1 REF 0.4183940191242pf
C_C2 1 2 9.8387270091651pf
C_C3 1 3 0.0661601769355pf
C_C4 1 4 0.1510274178096pf
C_C5 2 REF 0.5485178525819pf
C_C6 2 3 0.0771216264256pf
C_C7 3 REF 0.4491038923001pf
C_C8 4 REF 0.4417122333137pf
L_L1 1 5 1.6005810066295nh
R_RL1 5 2 0.0025930026741
L_L2 3 6 1.2993696412047nh
R_RL2 6 4 -4.064836617e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_25 1 2 3 4 REF
C_C1 1 REF 0.4475504848885pf
C_C2 1 2 6.7696715382933pf
C_C3 1 3 0.0852777458061pf
C_C4 1 4 0.1158711485953pf
C_C5 2 REF 0.5376209627425pf
C_C6 2 3 0.0622687431362pf
C_C7 2 4 0.0418662561345pf
C_C8 3 REF 0.4471968429083pf
C_C9 4 REF 0.4392316680379pf
L_L1 1 5 1.8264539768761nh
R_RL1 5 2 -1.260798055e-3
L_L2 3 6 1.2966496240253nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_26 1 2 3 4 REF
C_C1 1 REF 0.4604383601335pf
C_C2 1 2 5.8817320281681pf
C_C3 1 3 0.0957644191756pf
C_C4 1 4 0.1031005785993pf
C_C5 2 REF 0.5386128482232pf
C_C6 2 3 0.0549192118951pf
C_C7 2 4 0.0579668914829pf
C_C8 3 REF 0.4458722273314pf
C_C9 4 REF 0.4375891761481pf
L_L1 1 5 1.9192616416702nh
R_RL1 5 2 8.0235180815e-5
L_L2 3 6 1.2954939158579nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param24_26

